US06982274B2
5-(Chloromethyl)-3-(3-fluorophenyl)-1-trityl-1H-indazole
Under ice-cooling, a solution of 1.21 g of [3-(3-fluorophenyl)-1-trityl-1H-5-indazolyl]methanol in 12 ml methylene chloride were added 0.45 ml of triethylamine and 0.23 ml of methanesulfonyl chloride, and the mixture was stirred at room temperature overnight. To the reaction mixture was added 150 ml of ethyl acetate. The mixture was sequentially washed with water, saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The resulting crude crystals were recrystallized from diisopropyl ether, to give 1.13 g of the title compound as white crystals.

reactant | [3-(3-fluorophenyl)-1-trityl-1H-5-indazolyl]methanol | 1.21 g | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)CO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25FN2O
reactant | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.23 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 5-(Chloromethyl)-3-(3-fluorophenyl)-1-trityl-1H-indazole | 1.13 g | ClCC=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F | C33H24ClFN2
